US08349865B2
Step 2: 6-{[2,6-Dichloro-4-(3-hydroxy-3-methylbut-1-yn-1-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
To a solution of 6-[(2,6-dichloro-4-iodophenyl)amino]pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one (50 mg, 0.10 mmol) in DMF (4 mL) were added CuI (3.94 mg, 0.02 mmol), triethylamine (30 uL, 0.20 mmol), tetrakis(triphenylphosphine)palladium (0) (12 mg, 10.4 umol), and 2-methylbut-3-yn-2-ol (17.4 mg, 0.21 mmol). The mixture was degassed by bubbling nitrogen gas and heated to 80° C. overnight. After cooling to room temperature, the mixture was diluted with water and extracted with EtOAc. The organic layers were combined, dried with MgSO4, filtered, and concentrated under reduced pressure. Purification by column chromatography on silica gel (100% CH2Cl2 to 70% CH2Cl2/30% MeOH) afforded the title compound.

reactant | 6-[(2,6-dichloro-4-iodophenyl)amino]pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | 0.10 mmol, 50 mg | ClC1=C(C(=CC(=C1)I)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C17H9Cl2IN4O
reactant | triethylamine | 0.20 mmol, 30 uL | C(C)N(CC)CC | C6H15N
reactant | 2-methylbut-3-yn-2-ol | 0.21 mmol, 17.4 mg | CC(C)(C#C)O | C5H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.02 mmol, 3.94 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 10.4 umol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{[2,6-Dichloro-4-(3-hydroxy-3-methylbut-1-yn-1-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)C#CC(C)(C)O)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C22H16Cl2N4O2
